US07790770B2
To a solution of (S)—N—((R)-1-(4-fluoro-3-hydroxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide, prepared as described in Procedure 109, 110, 111, 112, 113, 114, (0.545 g, 1 mmol) in CH2Cl2 (10 mL) was added Cu(OAc)2 (0.182 g, 1 mmol), followed by pyridine (0.79 g, 10 mmol) and 2,4,6-trivinyl-1,3,5,2,4,6-trioxatriborinane (0.159 g, 0.66 mmol). The reaction mixture was stirred overnight under ambient air and filtered through a plug of celite and neutral alumina. The solid was washed with ethyl acetate and the filtrate was concentrated under reduced pressure to yield (S)—N—((R)-1-(4-fluoro-3-(vinyloxy)phenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide as an off-white foam (0.495 g, 87% yield). LCMS: RT=3.653 min [M+H] 572.2 (Phenomenex Luna C18 5μ column, eluting with 10-90% aqueous acetonitrile containing 0.1% trifluoroacetic acid over a 4 minute gradient, monitoring at 220 nM). 1H NMR (CDCl3) ppm 7.2-7.1 (m, 5H), 7.02 (d, J=6.2 Hz, 1H), 6.89 (d, J=6.2 Hz, 2H), 6.82 (d, J=8.8 Hz, 1H), 6.68 (br, 2H), 6.54 (dd, J=6.2 Hz, 13.6 Hz, 1H), 5.84 (t, J=52.7 Hz, 1H), 4.62 (dd, J=2.2 Hz, 13.6 Hz, 1H), 4.40 (dd, J=2.2 Hz, 5.7 Hz, 1H), 4.21 (s, 1H), 3.95 (d, J=12.8 Hz, 1H), 3.55 (d, J=12.7 Hz, 1H), 1.19 (s, 9H).

reactant | (S)—N—((R)-1-(4-fluoro-3-hydroxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | FC1=C(C=C(C=C1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@@](=O)C(C)(C)C)O | C26H25F6NO3S
reactant | pyridine | 10 mmol, 0.79 g | N1=CC=CC=C1 | C5H5N
reactant | 2,4,6-trivinyl-1,3,5,2,4,6-trioxatriborinane | 0.66 mmol, 0.159 g | C(=C)B1OB(OB(O1)C=C)C=C | C6H9B3O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 1 mmol, 0.182 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (S)—N—((R)-1-(4-fluoro-3-(vinyloxy)phenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | 0.495 g, 87% yield | FC1=C(C=C(C=C1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@@](=O)C(C)(C)C)OC=C | C28H27F6NO3S
